US04957928
46.14 g (242 mmol) of p-toluenesulphonyl chloride are added while stirring at room temperature to a solution of 36.12 g (220 mmol) of 3-hydroxymethylchroman in 100 ml of absolute pyridine, the slightly exothermic reaction being maintained at room temperature by means of an ice bath. The reaction mixture is stirred for a further 3 hours at room temperature and then poured onto ice-water. The crystals formed are filtered off with suction, washed with water and dried in vacuo. 65.84 g (94%) of 3-(p-toluenesulphonyloxymethyl)chroman having a melting point of 86°-87° are obtained.

reactant | p-toluenesulphonyl chloride | 242 mmol, 46.14 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 3-hydroxymethylchroman | 220 mmol, 36.12 g | OCC1COC2=CC=CC=C2C1 | C10H12O2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-(p-toluenesulphonyloxymethyl)chroman | 65.84 g, 94% | C1(=CC=C(C=C1)S(=O)(=O)OCC1COC2=CC=CC=C2C1)C | C17H18O4S
